US06194441B1
3-Fluoro-4-(4-hydroxvmethylimidazol-1-yl)nitrobenzene
3,4-Difluoronitrobenzene (23.85 g) was dissolved in acetonitrile (180 ml), followed by 4-hydroxymethylimidazole (14.7 g) and ethyldiisopropylamine (65.2 ml). The mixture was stirred and heated to reflux for 2 days. After cooling, acetonitrile was evaporated and the residue was shaken with a mixture of methyl t-butyl ether (200 ml) and water (100 ml), and the solid filtered. After washing with a mixture of methyl t-butyl ether (50 ml) and water (25 ml), the solid was dried in vacuo at 60° C. overnight, to give product (26.8 g) mp 157-159° C.

reactant | 3,4-Difluoronitrobenzene | 23.85 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | 4-hydroxymethylimidazole | 14.7 g | OCC=1N=CNC1 | C4H6N2O
reactant | ethyldiisopropylamine | 65.2 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 180 ml | C(C)#N | C2H3N
product | 3-Fluoro-4-(4-hydroxvmethylimidazol-1-yl)nitrobenzene | 26.8 g | FC=1C=C(C=CC1N1C=NC(=C1)CO)[N+](=O)[O-] | C10H8FN3O3
